US07608721B2
A solution of 70 mg (0.15 mmol) of N-[2-chloro-4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-N-ethyl-3-phenyl-propionamide in 3 mL of THF was treated with 1 mL of 1M B3.THF-complex in THF and stirred for 10 hours at 80° C. in a sealed tube. Evaporation of the solvent and column chromatography on silica gel with CH2Cl2/n-heptane 1:1 yielded 60 mg (91%) of 2-{3-chloro-4-[ethyl-(3-phenyl-propyl)-amino]-phenyl}-1,1,1,3,3,3-hexafluoro-propan-2-ol, colorless oil, MS: 440 (MH+, 1Cl).

reactant | N-[2-chloro-4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-N-ethyl-3-phenyl-propionamide | 0.15 mmol, 70 mg | ClC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)N(C(CCC1=CC=CC=C1)=O)CC | C20H18ClF6NO2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-{3-chloro-4-[ethyl-(3-phenyl-propyl)-amino]-phenyl}-1,1,1,3,3,3-hexafluoro-propan-2-ol | 60 mg, 91% | ClC=1C=C(C=CC1N(CCCC1=CC=CC=C1)CC)C(C(F)(F)F)(C(F)(F)F)O | C20H20ClF6NO
